US08431584B2
108-A. 5-(2-Azidomethyl-pyridin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
A mixture of methanesulfonic acid 4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]pyridine-2-ylmethyl ester (505 mg, 1.03 mmol) and sodium azide (201 mg, 3.12 mmol) in DMSO (5 mL) is heated at 80° C. for 2 h. The mixture is then diluted with DCM (100 mL) and water. The organic layer is washed further with brine and then dried over anhydrous Na2SO4. Following concentration the residue is separated via FCC (20-90% EtOAc/heptane) to give the title compound. MS (ESI) m/z 453.1 (M+1).

reactant | methanesulfonic acid 4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]pyridine-2-ylmethyl ester | 1.03 mmol, 505 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)COS(=O)(=O)C)(F)F | C23H18F3N3O5S
reactant | sodium azide | 3.12 mmol, 201 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-(2-Azidomethyl-pyridin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CN=[N+]=[N-])(F)F | C22H15F3N6O2
